US07678803B2
A suspension of 1-amino-6-(3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-isoquinoline-4-carbonitrile (0.066 g, 0.19 mmol) in EtOH/DMSO (3:1, 2 mL) is treated with an aqueous solution of NaOH (1 M, 0.03 mL) and H2O2 (30%, 0.1 mL). The reaction mixture is stirred at RT for 2 h. The reaction mixture is treated with H2O (20 mL). The aqueous phase is extracted with EtOAc (2×). The combined organic layers are dried over MgSO4. The solvent is evaporated and the residue is dried under vacuum. Purification of the crude material using a Biotage column (0-20% MeOH/CH2Cl2) affords 0.02 g (29%) of 1-amino-6-(3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-isoquinoline-4-carboxylic acid amide. LC/MS m/z=363 [M+H]+, RT=1.93 min.

reactant | 1-amino-6-(3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-isoquinoline-4-carbonitrile | 0.19 mmol, 0.066 g | NC1=NC=C(C2=CC(=CC=C12)N1C=C(C=2C(CC(CC12)(C)C)=O)C)C#N | C21H20N4O
reactant | NaOH | 1 M, 0.03 mL | [OH-].[Na+]
reactant | H2O2 | 0.1 mL | OO | H2O2
reactant | H2O | 20 mL | O | H2O
solvent | EtOH DMSO | 2 mL | CCO.CS(=O)C
product | 1-amino-6-(3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-isoquinoline-4-carboxylic acid amide | 0.02 g, 29% | NC1=NC=C(C2=CC(=CC=C12)N1C=C(C=2C(CC(CC12)(C)C)=O)C)C(=O)N | C21H22N4O2
